US09422267B2
To a solution of 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid (300 mg, 0.847 mmol) in DMF (4 mL) was added pyrimidin-5-amine (201 mg, 2.11 mmol), HATU (386 mg, 1.016 mmol) and DIPEA (0.24 mL, 1.4 mmol). The reaction mixture was allowed to stir at RT for 16 h. The reaction mixture was diluted with water (40 mL) and extracted with EtOAc (2×25 mL). The organic layer was washed with water (8×30 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave a crude product that was purified by reverse phase HPLC to afford 11 mg of 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(pyrimidin-5-yl)pyrrolidine-2-carboxamide as free base. 1H NMR (400 MHz, CD3OD, formate salt) δ (ppm): 0.58-0.67 (m, 2H), 0.80-0.94 (m, 2H), 1.70-1.78 (m, 1H), 2.09-2.21 (m, 4H), 2.22-2.42 (m, 2H), 2.78-2.81 (m, 2H), 2.82-2.95 (m, 2H), 3.60-2.70 (m, 1H), 3.78-3.88 (m, 1H), 4.78 (dd, 1H), 6.08 (s, 1H), 8.84 (s, 1H), 8.89 (s, 2H). Separation by chiral HPLC provided enantiomers 7a and 7b.

reactant | 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid | 0.847 mmol, 300 mg | C1(CC1)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)O)CCC2 | C18H22N6O2
reactant | pyrimidin-5-amine | 2.11 mmol, 201 mg | N1=CN=CC(=C1)N | C4H5N3
reactant | HATU | 1.016 mmol, 386 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.4 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(pyrimidin-5-yl)pyrrolidine-2-carboxamide | 11 mg | C1(CC1)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)NC=1C=NC=NC1)CCC2 | C22H25N9O
